Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:9]#[C:10][H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]#[C:10][H:11],-6.16994906794
[C:2](#[C:3][O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([C:3][O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.73695680583
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:3],5.12507476825
[H:1][C:2][O:3][C@:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8],3.53476750495
[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[H:7].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:8][O:9][H:10],2.43915440259
[C:1].[C:2]([H:3])=[C:4]([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]/[C:2]([H:3])=[C:4](\[O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.50986112944
[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7][H:8]>>[C:7][H:8].[H:1][C:2][O:3][C:4]#[C:5][H:6],4.3371914623800025
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]1[C:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13],2.19238016211
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.92380855181
[O:1][O:2][H:3]>>[O:1].[O:2][H:3],4.29292376416
[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:7],4.83800867256
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3][H:4],4.60178954954
[H:1][C:2]([H:3])[C:4]1([H:5])[C:6]([H:7])([H:8])[O:9][C:10]1([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:10]([O:9][C:6]([H:7])[H:8])([H:11])[H:12],-0.0510497519099
[H:9].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],-4.2541009906000005
[O:1]=[C:2]([H:3])[C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10]>>[C:2]([H:3])=[O:9].[O:1]([C:4]#[C:5][C:6]([H:7])[H:8])[H:10],3.89859197752
[H:12].[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.36739334205
[C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9].[H:1][O:2]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9],-6.868297416900001
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C@@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.00123495056
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:8]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-2.53813549569
[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][O:10][H:11]>>[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11],-3.9066480192
[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1],4.80785572644
[H:12].[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.45032889292
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:7][C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.4839344649
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],4.972625379669999
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[C:1]#[C:2][C:3]([H:4])[C:6]([H:7])=[C:8][H:9].[H:5],2.26082137656
[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][H:7]>>[C:1]([H:3])([H:4])[C:5]#[C:6][H:7].[C:2],3.17126812381
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.54938860264
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[O:11][C:12]1[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][C:12][H:13],1.7845862338
[H:1][C:2]1([H:3])[C:4][C:5]([C:6]([H:7])([H:8])[H:9])[O:10][O:11]1>>[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[O:10][O:11],-0.406110856478
[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-0.800130815161
